US06982263B2
Morpholine-4-carboxylic acid 1-[(benzyloxymethyl-cyano-methyl)-carbamoyl]-3-methyl-butyl ester (a) N-(t-butoxycarbonyl)-L-(O-benzyl)serinamide
Morpholine-4-carboxylic acid 1-(2-benzyloxy-1-carbamoyl-ethylcarbamoyl)-3-methyl-butyl ester (0.100 g, 0.23 mmol) was dissolved in 3 mL of DMF and cooled to 0° C. with an ice-water bath. To this solution was added cyanuric chloride (0.044 g, 0.23 mmol) and the reaction mixture was stirred for 1 h. The reaction was quenched with cold water (2 mL), extracted with EtOAc (3×100 mL), and the organic layers were combined and washed with 100 mL brine. The organic layer was dried over MgSO4, filtered and concentrated to give the crude residue. The residue was purified by chromatography (SiO2, 50% hexane in EtOAc) to give the title compound as a clear oil (0.055 g, 60%); 1H NMR (CDCl3) 7.35 (5H, m), 6.76 (1H, d), 5.1 (2H, m), 4.65 (2H, m), 3.82-3.35 (10H, m), 1.7 (3H, m), 0.95 (6H, m). MS: m/z=404 M+1.

reactant | Morpholine-4-carboxylic acid 1-(2-benzyloxy-1-carbamoyl-ethylcarbamoyl)-3-methyl-butyl ester | 0.23 mmol, 0.100 g | C(C1=CC=CC=C1)OCC(C(N)=O)NC(=O)C(CC(C)C)OC(=O)N1CCOCC1 | C21H31N3O6
reactant | cyanuric chloride | 0.23 mmol, 0.044 g | N1=C(Cl)N=C(Cl)N=C1Cl | C3Cl3N3
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | Morpholine-4-carboxylic acid 1-[(benzyloxymethyl-cyano-methyl)-carbamoyl]-3-methyl-butyl ester | 0.055 g, 60% | C(C1=CC=CC=C1)OCC(C#N)NC(=O)C(CC(C)C)OC(=O)N1CCOCC1 | C21H29N3O5
